US03983138
A mixture of 23.4 g. (0.20 mole) of succinamic acid, 25.4 g. (0.20 mole) of benzyl chloride, 20.2 g. (0.20 mole) triethylamine and 250 ml. dimethylformamide is stirred at 95°C. for 20 hours. The reaction mixture is diluted with 500 ml. water and the product extracted into two 200 ml. portions of ethyl ether. The combined ether extracts are washed with two 50 ml. portions of saturated sodium bicarbonate solution, then two 50 ml. portions of water and dried over anhydrous magnesium sulfate. After filtering, the solution is concentrated at 15 - 20 mm. and 40°C. to give benzyl succinamate.

reactant | succinamic acid | 0.20 mole | C(CCC(=O)N)(=O)O | C4H7NO3
reactant | benzyl chloride | 0.20 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triethylamine | 0.20 mole | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | benzyl succinamate | C(CCC(=O)N)(=O)OCC1=CC=CC=C1 | C11H13NO3
